US07531532B2
tert-Butyl 3-(4-tert-butoxycarbonylaminopiperidin-1-yl)azetidine-1-carboxylate
To 1-Boc-azetidin-3-on (1.00 g) and 4-(tert-butoxycarbonylamino)piperidine (1.17 g) dissolved in methanol (50 ml) were added acetic acid (0.368 ml) and 10% palladium carbon (1.0 g), followed by stirring under hydrogen atmosphere at room temperature for 12 hours. The reaction mixture was stirred under hydrogen atmosphere (0.4 MPa) at room temperature for 4 hours. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under reduced pressure. Ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate were added thereto, followed by partition. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated. The resultant crystals were suspended in diethyl ether-hexane, collected by filtration, and washed with hexane. There crystals were dried under aeration to provide the title compound (1.21 g) as colorless crystals.

reactant | 1-Boc-azetidin-3-on | 1.00 g | C(=O)(OC(C)(C)C)N1CC(C1)=O | C8H13NO3
reactant | 4-(tert-butoxycarbonylamino)piperidine | 1.17 g | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | acetic acid | 0.368 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | tert-Butyl 3-(4-tert-butoxycarbonylaminopiperidin-1-yl)azetidine-1-carboxylate | 1.21 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C | C18H33N3O4
